US06890923B2
Inhibition of PMA/Ionomycin-Stimulated Peripheral Blood Mononuclear Cell Proliferation
The assay for PMA/ionomycin-stimulated PBMC proliferation was performed in 96-well flat bottomed microtitre plates. Compounds were prepared as 10 mM stock solutions in dimethyl sulfoxide. A 50-fold dilution of this was prepared in RPMI and serial dilutions were prepared from this solution. 10 μl of the 50-fold diluted stock, or dilutions of it, were added to the well to give concentrations in the assay starting at 9.5 μM and going down. Into each well was placed 1×105 PBMC, prepared from human peripheral blood from a single donor, in RPMI1640 medium supplemented with 10% human serum, 2 mM glutamine and penicillin/streptomycin. Phorbol myristate acetate (PMA) (0.5 ng/ml final concentration) and ionomycin (500 ng/ml final concentration) were added to these cells in supplemented RPMI1640 medium (as above) so that the final volume of the assay was 0.2 ml. The cells were incubated at 37° C. in a humidified atmosphere at 5% carbon dioxide for 72 hours. 3H-Thymidine (0.5 μCi) was added for the final 6 hours of the incubation. The level of radioactivity incorporated by the cells was then determined and this is a measure of proliferation.

reactant | PMA ionomycin | CCCCCCCCCCCCCC(=O)O[C@@H]1[C@H]([C@]2([C@@H](C=C(C[C@]3([C@H]2C=C(C3=O)C)O)CO)[C@H]4[C@@]1(C4(C)C)OC(=O)C)O)C.C[C@H](CCC(=O)O)C[C@H](C)C[C@H](C)C(=O)/C=C(/[C@H](C)C[C@H](C)C/C=C/[C@@H](C)[C@H]([C@@H](C)[C@H](C[C@@H]1CC[C@@](O1)(C)[C@H]2CC[C@@](O2)(C)[C@@H](C)O)O)O)\O
reactant | glutamine | 2 mM | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | penicillin streptomycin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+].C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | Ionomycin | C[C@H](CCC(=O)O)C[C@H](C)C[C@H](C)C(=O)/C=C(/[C@H](C)C[C@H](C)C/C=C/[C@@H](C)[C@H]([C@@H](C)[C@H](C[C@@H]1CC[C@@](O1)(C)[C@H]2CC[C@@](O2)(C)[C@@H](C)O)O)O)\O | C41H72O9
